US04465834
Preparation of 3-Quinuclidyl α-Phenyl-α-phenylethynylglycolate
A suspension of 3-quinuclidinol (5.1 g. 0.04 mole) and Na (~0.05 g.) in 20 ml. of toluene was heated to reflux in a flask equipped with a reflux head and stirrer. After the sodium reacted completely (about 15 minutes of refluxing), ethyl α-phenyl-α-phenylethynyl-glycolate (7.0 g., 0.025 mole) dissolved in 20 ml. of toluene was added very slowly over a two hour period. Towards the end of the addition a temperature drop of 6° was noted in the head and 10 ml. of the toluene-ethanol azeotrope slowly was distilled over. The reaction mixture was refluxed for an additional hour, and an additional 10 ml. of distillate was subsequently collected over a thirty minute period. The reaction mixture was poured on ice and acidified with 6N HCl. The toluene layer was separated and washed with several portions of 6N HCl. The combined water layers were neutralized with 10% NaOH, basified with potassium carbonate and extracted with chloroform several times. The chloroform layer was dried and subsequently stripped of volatile material in vacuo to leave a tacky solid. The material was washed with hot ether to give 5.2 g. (58%) of an off-white solid, m.p. 150°-90°. Recrystallization from benzene and then isopropanol yielded analytically pure material, m.p. 205°-8°.

reactant | 3-quinuclidinol | 0.04 mole, 5.1 g | N12CC(C(CC1)CC2)O | C7H13NO
reactant | sodium | [Na] | Na
reactant | ethyl α-phenyl-α-phenylethynyl-glycolate | 0.025 mole, 7.0 g | C1(=CC=CC=C1)C(C(=O)OCC)(O)C#CC1=CC=CC=C1 | C18H16O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-Quinuclidyl α-Phenyl-α-phenylethynylglycolate | C1(=CC=CC=C1)C(C(=O)OC1CN2CCC1CC2)(O)C#CC2=CC=CC=C2 | C23H23NO3
